US07700595B2
[3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl][(3-methyl-1-benzothien-2-yl)methyl]amine
The title compound was prepared from [3-(3-benzyl-8-chlorocinnolin-4-yl)phenyl]amine and 3-methyl-benzo[b]thiophene-2-carbaldehyde according to the procedure of Step 5 Example 6. MS (ES) m/z 492.2.

reactant | [3-(3-benzyl-8-chlorocinnolin-4-yl)phenyl]amine | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)Cl | C21H16ClN3
reactant | 3-methyl-benzo[b]thiophene-2-carbaldehyde | CC=1C2=C(SC1C=O)C=CC=C2 | C10H8OS
product | [3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl][(3-methyl-1-benzothien-2-yl)methyl]amine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)NCC=1SC2=C(C1C)C=CC=C2 | C30H22ClN3S
